US08802659B2
Ethyl 3-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanoate, (491 mg, 1.2 mmol, 1 equiv) was dissolved in DCM (20 mL). Then Et3N (360 mg, 3.56 mmol, 3 equiv), DMAP (15 mg, 0.13 mmol, 0.1 equiv) and (Boc)2O (520 mg, 2.38 mmol, 2 equiv) was added to the mixture and stirred for 18 h at r.t. The reaction was washed by 5% HCl, brine, dried over Na2SO4, concentrated and purified by prep-TLC to give ethyl 3-(tert-butoxycarbonyl((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)amino)propanoate as a yellow oil (478 mg, 78%). (mobile phase:EA/PE=11:8). ESI-MS (M+1)+: 512.3. 1H NMR (400 MHz, CDCl3) δ: 7.71˜7.63 (m, 2H), 7.61˜7.53 (m, 1H), 7.38˜7.27 (m, 1H), 7.15˜7.10 (m, 2H), 4.57 (s, 2H), 4.30˜4.21 (m, 1H), 4.07 (q, 2H), 3.57˜3.37 (m, 2H), 2.60˜2.45 (m, 2H), 2.31˜2.23 (m, 2H), 1.93˜1.85 (m, 2H), 1.58˜1.36 (m, 11H), 1.26˜1.04 (m, 6H), 0.89 (s, 9H).

reactant | Ethyl 3-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)propanoate | 1.2 mmol, 491 mg, 1 equiv | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCCC(=O)OCC | C26H37NO3
reactant | Et3N | 3.56 mmol, 360 mg, 3 equiv | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 2.38 mmol, 520 mg, 2 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.13 mmol, 15 mg, 0.1 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | ethyl 3-(tert-butoxycarbonyl((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)amino)propanoate | 478 mg, 78% | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)CC1=CC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C31H45NO5
